US04794181
To a cooled solution of 7,8-dimethoxy-2,3,4,5-tetrahydro-1-(p-trifluoromethylphenoxy)-3-benzazepine (5.5 g, 0.015 mole) and triethylamine (1.7 g, 0.017 mole) in chloroform (70 ml) was slowly dropped a solution of ethyl chloroformate (1.0 g, 0.017 mole) in chloroform (20 ml). After stirring twenty hours at ambient temperature the reaction mixture was concentrated to an oil which was dissolved in ether, washed with water, dilute HCl, again twice with water, then dried (saturated NaCl, anhydrous MgSO4). The solution was filtered then concentrated to a solid (5.0 g, 76%, m.p. 120° C.) of which a sample was twice recrystallized from hexanes to yield 7,8-dimethoxy-3-ethoxycarbonyl-2,3,4,5-tetrahydro-1-(p-trifluoromethylphenoxy)-3-benzazepine, m.p. 130°-131° C.

reactant | 7,8-dimethoxy-2,3,4,5-tetrahydro-1-(p-trifluoromethylphenoxy)-3-benzazepine | 0.015 mole, 5.5 g | COC1=CC2=C(C(CNCC2)OC2=CC=C(C=C2)C(F)(F)F)C=C1OC | C19H20F3NO3
reactant | triethylamine | 0.017 mole, 1.7 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.017 mole, 1.0 g | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 7,8-dimethoxy-3-ethoxycarbonyl-2,3,4,5-tetrahydro-1-(p-trifluoromethylphenoxy)-3-benzazepine | COC1=CC2=C(C(CN(CC2)C(=O)OCC)OC2=CC=C(C=C2)C(F)(F)F)C=C1OC | C22H24F3NO5
